US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (250 mg) is dissolved in 1,4-dioxane (3 ml), and thereto are added a catalytic amount of tetrakis(triphenylphosphine)palladium, a catalytic amount of silver carbonate and a catalytic amount of copper (I) chloride under nitrogen flow. After adding dropwise trimethylaluminum-hexane solution (1M, 480 μl), the mixture is stirred at 60° C. for 30 minutes. After cooling to room temperature, a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate are added to the reaction solution. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (NH-silica gel; hexane: ethyl acetate=9:1→4:1) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (153 mg). MS (m/z): 653 [M+H]+

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 250 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OS(=O)(=O)C(F)(F)F)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H31F9N6O6S
reactant | trimethylaluminum hexane | 1M, 480 μl | C[Al](C)C.CCCCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | silver carbonate | C([O-])([O-])=O.[Ag+2]
catalyst | copper (I) chloride | [Cu]Cl
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 153 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H34F6N6O3
